US09084794B2
2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-N,N-dimethyl-2-(4-(quinolin-7-yl)phenyl)acetamide
A solution of 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(4-(quinolin-7-yl)phenyl)acetic acid (0.191 mmol) in N,N-dimethylformamide (1 mL) was treated with diisopropylethylamine (0.573 mmol) and 2-chloro-1,3-dimethyl-4,5-dihydro-1H-imidazol-3-ium chloride (25% in dichloromethane, 0.108 mL) at room temperature. The reaction was stirred for 10 min at which point dimethylamine (2M in THF, 0.286 mmol) was added in one portion. The reaction was allowed to stir overnight, at which point additional dimethylamine (50 μL of a 2M solution in THF) and 2-chloro-1,3-dimethyl-4,5-dihydro-1H-imidazol-3-ium chloride (25% in dichloromethane, 0.030 mL) was added. The reaction mixture was stirred for an additional 30 minutes and then concentrated in vacuo. The crude material was purified by reverse phase HPLC (5-35% acetonitrile with 0.1% TFA/water with 0.1% TFA). The product fractions were combined, the pH was adjusted to ˜10 with 30% w/v ammonium hydroxide solution, and the mixture was extracted with dichloromethane three times. The combined organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound as a white solid (26%). MS(ES)+ m/e 499.4 [M+H]+.

reactant | 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(4-(quinolin-7-yl)phenyl)acetic acid | 0.191 mmol | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)O)C2=CC=C(C=C2)C2=CC=C1C=CC=NC1=C2)=O | C28H29N3O4
reactant | diisopropylethylamine | 0.573 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloro-1,3-dimethyl-4,5-dihydro-1H-imidazol-3-ium chloride | 0.108 mL | [Cl-].ClC=1N(CC[N+]1C)C
reactant | dimethylamine | 0.286 mmol, 2M | CNC | C2H7N
reactant | 2-chloro-1,3-dimethyl-4,5-dihydro-1H-imidazol-3-ium chloride | 0.030 mL | [Cl-].ClC=1N(CC[N+]1C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-N,N-dimethyl-2-(4-(quinolin-7-yl)phenyl)acetamide | 26% | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)N(C)C)C2=CC=C(C=C2)C2=CC=C1C=CC=NC1=C2)=O | C30H34N4O3
